* NGSPICE file created from gf180mcu_ocd_sc_rt12t3v3__buf_2.ext - technology: gf180mcuD

.subckt gf180mcu_ocd_sc_rt12t3v3__buf_2 A Y VDD VSS
X0 VDD A a_193_203r# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X1 Y a_193_203r# VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X2 Y a_193_203r# VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=2.49132p ps=12.92u w=1.02u l=0.28u
X3 VDD a_193_203r# Y VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X4 Y a_193_203r# VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=2.49132p ps=12.92u w=1.02u l=0.28u
X5 Y a_193_203r# VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X6 a_193_203r# A VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X7 VDD a_193_203r# Y VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X8 a_193_203r# A VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=3.73697p ps=19.385u w=1.02u l=0.28u
.ends

