* NGSPICE file created from gf180mcu_ocd_sc_rt12t3v3__dff_1.ext - technology: gf180mcuD

.subckt gf180mcu_ocd_sc_rt12t3v3__dff_1 D CLK Q QN VDD VSS
X0 a_828_987# CLKb in1 VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X1 out1 in1 VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X2 a_2812_987# out1 VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X3 a_4028_987# out2 VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X4 CLKN CLK VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=19.0728p ps=0.12486m w=1.285u l=0.28u
X5 VDD CLKN CLKb VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X6 VDD D a_828_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X7 out2 in2 VDD VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X8 in1 CLKN a_945_203r# VSS nfet_03v3 ad=0.3087p pd=2.01u as=0.52065p ps=3.23u w=1.02u l=0.28u
X9 VDD out1 a_2044_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X10 a_2044_987# CLKN in1 VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X11 VDD out1 a_2812_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X12 Q QN VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X13 QN out2 VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=2.74232p ps=14.88u w=1.02u l=0.28u
X14 a_2044_987# out1 VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X15 in2 CLKb a_2903_203r# VSS nfet_03v3 ad=0.3087p pd=2.01u as=0.52065p ps=3.23u w=1.02u l=0.28u
X16 Q QN VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=3.08512p ps=16.74u w=1.02u l=0.28u
X17 a_2135_203r# out1 VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=2.74232p ps=14.88u w=1.02u l=0.28u
X18 a_2903_203r# out1 VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=2.74232p ps=14.88u w=1.02u l=0.28u
X19 a_828_987# D VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X20 CLKN CLK VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=3.08512p ps=16.74u w=1.02u l=0.28u
X21 out1 in1 VSS VSS nfet_03v3 ad=0.3087p pd=2.015u as=3.08512p ps=16.74u w=1.02u l=0.28u
X22 VDD in1 out1 VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X23 VDD QN Q VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X24 in2 CLKb a_4028_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X25 in2 CLKN a_2812_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X26 VDD CLK CLKN VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X27 in1 CLKb a_2135_203r# VSS nfet_03v3 ad=0.3087p pd=2.01u as=0.52065p ps=3.23u w=1.02u l=0.28u
X28 a_4028_987# CLKb in2 VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X29 a_2812_987# CLKN in2 VDD pfet_03v3 ad=0.5654p pd=3.45u as=0.3341p ps=1.805u w=1.285u l=0.28u
X30 QN out2 VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X31 CLKb CLKN VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X32 CLKb CLKN VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=3.08512p ps=16.74u w=1.02u l=0.28u
X33 VDD in2 out2 VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X34 in1 CLKN a_2044_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X35 in1 CLKb a_828_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X36 VDD out2 QN VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.3341p ps=1.805u w=1.285u l=0.28u
X37 in2 CLKN a_4107_203r# VSS nfet_03v3 ad=0.3087p pd=2.01u as=0.53235p ps=3.25u w=1.02u l=0.28u
X38 a_945_203r# D VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=3.08512p ps=16.74u w=1.02u l=0.28u
X39 VDD out2 a_4028_987# VDD pfet_03v3 ad=0.3341p pd=1.805u as=0.5654p ps=3.45u w=1.285u l=0.28u
X40 out2 in2 VSS VSS nfet_03v3 ad=0.3087p pd=2.015u as=3.08512p ps=16.74u w=1.02u l=0.28u
X41 a_4107_203r# out2 VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=2.74232p ps=14.88u w=1.02u l=0.28u
.ends

