* NGSPICE file created from gf180mcu_ocd_sc_rt12t3v3__inv_1.ext - technology: gf180mcuD

.subckt gf180mcu_ocd_sc_rt12t3v3__inv_1 A Y VDD VSS
X0 VDD A Y VDD pfet_03v3 ad=2.7424p pd=12.83u as=0.3341p ps=1.805u w=1.285u l=0.28u
X1 Y A VDD VDD pfet_03v3 ad=0.3341p pd=1.805u as=2.7424p ps=12.83u w=1.285u l=0.28u
X2 Y A VSS VSS nfet_03v3 ad=0.3087p pd=2.01u as=4.22095p ps=23.13u w=1.02u l=0.28u
.ends

